US07790932B1
At −78° C., sodium (0.28 g, 12.3 mmol) is added slowly to liquid ammonia (40 mL) followed by tris(3,5-dimethylphenyl)phosphine (2.1 g, 6.0 mmol), and the resulting mixture is stirred for 2 hours. A solution of 1-tert-butoxy-3-chloroisoquinoline (1.4 g, 6.0 mmol) in tetrahydrofuran (6 mL) is then added drop-wise and the resulting mixture slowly warmed to ambient temperature over 16 hours. The residue is quenched with water (30 mL), extracted with diethyl ether (3×25 mL), and the combined extracts are percolated through a column of magnesium sulfate-ZSM-5. The filtrate is concentrated under reduced pressure and the opaque residue is purified by a re-crystallization from methanol, yielding 1-tert-butoxy-3-(bis(3,5-dimethylphenyl)phosphino)isoquinoline (0.94 g, 73%) as a white solid.

reactant | sodium | 12.3 mmol, 0.28 g | [Na] | Na
reactant | ammonia | 40 mL | N | H3N
reactant | tris(3,5-dimethylphenyl)phosphine | 6.0 mmol, 2.1 g | CC=1C=C(C=C(C1)C)P(C1=CC(=CC(=C1)C)C)C1=CC(=CC(=C1)C)C | C24H27P
reactant | 1-tert-butoxy-3-chloroisoquinoline | 6.0 mmol, 1.4 g | C(C)(C)(C)OC1=NC(=CC2=CC=CC=C12)Cl | C13H14ClNO
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 1-tert-butoxy-3-(bis(3,5-dimethylphenyl)phosphino)isoquinoline | 0.94 g, 73% | C(C)(C)(C)OC1=NC(=CC2=CC=CC=C12)P(C1=CC(=CC(=C1)C)C)C1=CC(=CC(=C1)C)C | C29H32NOP
